US05824691
To a mixture of methyl 3-amino-5-(pyrrol-1-yl)benzoate (1.0 g) and pyridine (0.41 ml) in dichloromethane (20 ml) was added bromoacetyl bromide (0.44 ml) under ice cooling. After stirring for 6 hours at room temperature, the reaction mixture was poured into the mixture of ethyl acetate and ice-water. The organic layer was successively washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was pulverized from diethyl ether to give methyl 3-bromoacetylamino-5-(pyrrol-1-yl)benzoate (1.51 g).

reactant | methyl 3-amino-5-(pyrrol-1-yl)benzoate | 1.0 g | NC=1C=C(C(=O)OC)C=C(C1)N1C=CC=C1 | C12H12N2O2
reactant | pyridine | 0.41 ml | N1=CC=CC=C1 | C5H5N
reactant | bromoacetyl bromide | 0.44 ml | BrCC(=O)Br | C2H2Br2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | methyl 3-bromoacetylamino-5-(pyrrol-1-yl)benzoate | 1.51 g | BrCC(=O)NC=1C=C(C(=O)OC)C=C(C1)N1C=CC=C1 | C14H13BrN2O3
